US06969724B2
(±)-1-Hydroxy-7-[(4-phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one
Under a nitrogen atmosphere, 2.2 mL (0.0234 mol) of BBr3 were added to 20 mL of CH2Cl2, then 1.47 g (0.0039 mol) of (±)-1-methoxy-7-[(4-phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one dissolved in 25 mL of CH2Cl2 were added dropwise at room temperature. The reaction mixture was stirred for 2 h, then it was poured onto 25 g of crushed ice, basified with conc. NH4OH and extracted with CH2Cl2. The organic layer was dried and the solvent was removed in vacuo. The resulting crude solid was triturated with Et2O, filtered and dried, yielding 1.16 g of the title product.

reactant | BBr3 | 0.0234 mol, 2.2 mL | B(Br)(Br)Br | BBr3
reactant | (±)-1-methoxy-7-[(4-phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 0.0039 mol, 1.47 g | COC1=CC=CC2=C1CCC(CC2=O)C(=O)N2CCC(CC2)C2=CC=CC=C2 | C24H27NO3
reactant | NH4OH | [NH4+].[OH-]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (±)-1-Hydroxy-7-[(4-phenylpiperidin-1-yl)carbonyl]-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 1.16 g | OC1=CC=CC2=C1CCC(CC2=O)C(=O)N2CCC(CC2)C2=CC=CC=C2 | C23H25NO3
